US07939526B2
Sodium hydride (60% dispersion in oil, 55 mg, 1.38 mmol) was added to a stirred solution of 1-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol (4.10 g, 13.8 mmol) in tetrahydrofuran (55 mL). After 5 minutes, methyl vinyl sulfone (2.90 g, 27.6 mmol) was added dropwise. The reaction mixture was stirred at room temperature for 1 hour. Water (50 mL) and a small amount of brine were added and the mixture was extracted with ethyl acetate (2×50 mL). The organic layers were combined, washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford a solid that was purified by flash chromatography (silica gel, eluted with 5% methanol in dichloromethane) to provide 2.7 g of 2-butyl-1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinoline as a white solid.

reactant | Sodium hydride | 1.38 mmol, 55 mg | [H-].[Na+]
reactant | 1-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | 13.8 mmol, 4.10 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(O)C | C18H23N3O
reactant | methyl vinyl sulfone | 27.6 mmol, 2.90 g | C(=C)S(=O)(=O)C | C3H6O2S
reactant | Water | 50 mL | O | H2O
solvent | tetrahydrofuran | 55 mL | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 2-butyl-1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinoline | 2.7 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(OCCS(=O)(=O)C)C | C21H29N3O3S
